Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy and extraction of sludge ___

attach
 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 04:00PM BLOOD WBC-6.1 RBC-4.45* Hgb-13.7 Hct-41.6 
MCV-94 MCH-30.8 MCHC-32.9 RDW-12.1 RDWSD-41.6 Plt ___
___ 04:00PM BLOOD ___ PTT-32.9 ___
___ 04:00PM BLOOD Glucose-81 UreaN-13 Creat-0.9 Na-139 
K-4.2 Cl-102 HCO3-21* AnGap-16
___ 04:00PM BLOOD ALT-284* AST-156* AlkPhos-380* 
TotBili-3.2*
___ 04:00PM BLOOD Lipase-37
___ 04:00PM BLOOD Albumin-4.6 Calcium-9.3 Phos-3.0 Mg-2.6

PERTINENT INTERVAL LABS:
========================
___ 04:00PM BLOOD ALT-284* AST-156* AlkPhos-380* 
TotBili-3.2*
___ 07:25AM BLOOD ALT-226* AST-128* AlkPhos-330* 
TotBili-2.3*
___ 04:40AM BLOOD ALT-187* AST-114* AlkPhos-266* 
TotBili-1.8*
___ 04:40AM BLOOD ALT-170* AST-96* AlkPhos-244* TotBili-1.3

LAB RESULTS ON DISCHARGE:
=========================
___ 04:40AM BLOOD WBC-4.7 RBC-3.99* Hgb-12.1* Hct-37.1* 
MCV-93 MCH-30.3 MCHC-32.6 RDW-11.7 RDWSD-40.1 Plt ___
___ 04:40AM BLOOD ___ PTT-30.9 ___
___ 04:40AM BLOOD Glucose-101* UreaN-10 Creat-0.6 Na-143 
K-4.3 Cl-103 HCO3-24 AnGap-16
___ 04:40AM BLOOD ALT-170* AST-96* AlkPhos-244* TotBili-1.3

IMAGING:
========
MRCP ___:
-----------------
IMPRESSION:
1. Status post cholecystectomy.  Trace fluid in the surgical 
bed.
2. No intrahepatic biliary ductal dilatation.  Mild dilatation 
of the common bile duct with a 4 mm stone in the distal CBD.

PROCEDURES:
===========
ERCP ___:
-----------------
LIMITED EGD: Limited exam of the esophagus, stomach, and 
duodenum were normal with the side-viewing duodenoscope.
AMPULLA: Ampulla was well visualized and appeared normal.
CANNULATION: The biliary duct was deeply cannulated with a 
sphincterotome.  The cannulation was not difficult.
CHOLANGIOGRAM: Contrast was injected and there was brisk flow 
through the ducts contrast extended to the entire biliary tree.  
The CBD was 7 mm in diameter.  The left and right hepatic ducts 
and intrahepatic branches were evaluated and appeared slightly 
dilated.  The gallbladder was surgically absent.  One small 
filling defect is seen, suggestive of the stone or sludge.  This 
was seen in the common bile duct.  No contrast extravasation to 
suggest a leak.
SPHINCTEROTOMY: A biliary sphincterotomy was successfully 
performed over an existing guidewire.  There is no evidence of 
post sphincterotomy bleeding.  Hemostasis was ensured at the end 
of the procedure.
BALLOON SWEEP: The biliary tree was swept of a 9 mm balloon 
starting at the bifurcation.  Small amount of sludge was removed 
successfully.  Multiple balloon sweeps were performed.
FINAL CHOLANGIOGRAM: The final occlusion cholangiogram showed no 
evidence of filling defects in the CBD.  Excellent bile and 
contrast drainage was seen endoscopically and fluoroscopically.

IMPRESSIONS: Successful ERCP with sphincterotomy and extraction 
of sludge as described above.
 
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of recent 
cholecystectomy for cholecystitis (___) who now presents with 
abdominal pain and transaminitis in cholestatic pattern, with 
MRCP concerning for cholidocholithiasis, now s/p ERCP with 
sphincterotomy and sludge removal with resolution of abdominal
pain and downtrending LFTs.

ACUTE/ACTIVE PROBLEMS:

# Abdominal pain
# Choledocholithiasis:
Patient with recent admission to ___ for 
acute cholecystitis s/p CCY now with recurrent abdominal pain. 
At the time of admission for CCY, the patient underwent RUQUS 
and MRCP that reportedly did not reveal cholelithiasis or 
choledocholithiasis. He now has recurrent episodic abdominal 
pain, found to have elevated liver enzymes in cholestatic 
pattern. He had CT A/P at ___ on ___ that showed 
post-surgical changes but otherwise no biliary ductal dilatation 
and no other etiology for his pain.
Admission MRCP without intrahepatic biliary ductal dilatation 
but with mild dilatation of the common bile duct with initial 
concern for 4mm stone in distal CBD (although on repeat review 
with radiology no obvious stone was seen). He was ultimately 
taken for ERCP, CBD was 7 mm in diameter, with slightly dilated 
L and R hepatic and intrahepatic ducts, and a small filling 
defect in CBD. He underwent successful sphincterotomy and 
multiple balloon sweeps for extraction of sludge. Subsequently 
his abdominal pain entirely resolved, and diet was advanced to 
regular diet. LFTs also improved, from ALT 284/AST 156/ALKPHOS 
380/TBILI 3.2 --> ALT 170/AST 96/ALKPHOS 244/TBILI 1.3.

# Hypoglycemia: Patient with episode of hypoglycemia on AM labs 
to 59 on ___ likely in setting of prolonged poor oral intake. 
This subsequently resolved as diet was advanced. Low suspicion 
for etiologies such as adrenal insufficiency.

# Loose stools: Patient reports several loose stools on the day 
of admission. He had no further episodes of loose stools while 
on the floor.

CHRONIC/STABLE PROBLEMS:
# Possible GERD: Patient recently started taking omeprazole due 
to epigastric and RUQ abdominal discomfort, however, this 
discomfort may have been secondary to cholecystitis and ongoing 
gastrointestinal process as above. He was on this for 
approximately 2 weeks with last dose prior to admission, and is 
interested in trialing coming off of it, hence we discussed 
discontinuation; given short duration will not taper. There are 
some features that do sound like GERD (occasional burning 
discomfort), hence he was advised to monitor symptoms, and may 
certainly restart H2B (was also taking Prilosec PRN) or PPI 
should he develop heartburn

TRANSITIONAL ISSUES:
====================
[] Please consider recheck LFTs at ___ follow up to ensure 
continued downtrend
[] Discontinued omeprazole as unclear if truly has GERD, please 
continue to monitor symptoms to see if has indication for H2B or 
PPI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis s/p ERCP with sphincterotomy
Hypoglycemia ___ poor PO intake 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

PHYSICAL EXAM ON DISCHARGE:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, nontender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted; well-healed surgical
incisions on abdomen without erythema or purulence
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You came to us for further evaluation of right sided abdominal 
pain, nausea, and abnormal liver function tests. While you were 
here, we discovered that you had choledocholithiasis, with 
sludge. You underwent a procedure called an ERCP (a procedure 
that enables your physician to examine the pancreatic and bile 
ducts), and we cleaned out some sludge. A sphincterotomy was 
also performed, to allow for better drainage.

After this procedure, your abdominal pain resolved and your 
liver function tests also improved. Subsequently you were able 
to tolerate a regular diet without difficulty. You were seen by 
our nutritionists who recommended some supplement shakes 
(Ensure) given that you had not been able to eat much for 2 
weeks.

After leaving the hospital, please continue to take all of your 
medications and attend your follow up appointment with Dr. ___. 
Eventually when you go back to ___, please do set up follow 
up with Dr. ___!

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___